US04720495
6.75 g (0.02 mole) of 8-chloro-9-fluoro-5-methyl-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester was suspended in 120 ml of chloroform, 6.89 g (0.08 mole) of piperazine was added thereto, and this mixture was stirred at 20°-25° C. for 6 hours. The resulting reaction solution was concentrated under reduced pressure and the residue thus obtained was purified by silica gel column chromatography [using a chloroform-methanol mixture (with a volume ratio of 10.1) as the developing solvent]. The fraction containing the desired product was evaporated to dryness under reduced pressure and the resulting residue was recrystallized from benzene to obtain 4.79 g (61.8% yield) of 9-fluoro-5-methyl-8-(1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester in the form of yellow crystals.

reactant | 8-chloro-9-fluoro-5-methyl-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester | 0.02 mole, 6.75 g | C(C)OC(=O)C1=CN2C(CC(C3=C2C(C1=O)=CC(=C3Cl)F)=O)C | C16H13ClFNO4
reactant | piperazine | 0.08 mole, 6.89 g | N1CCNCC1 | C4H10N2
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-fluoro-5-methyl-8-(1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester | 4.79 g, 61.8% yield | C(C)OC(=O)C1=CN2C(CC(C3=C2C(C1=O)=CC(=C3N3CCNCC3)F)=O)C | C20H22FN3O4
